US06331548B1
Synthesis of (S)-N-(2,6-dichlorophenyl)-1-(1-methoxycarbonylpyrrolidin-3-yl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide
Then, to a 4 ml anhydrous methylene chloride solution of (S)-N-(2,6-dichlorophenyl)-1-(3-pyrrolidyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide, 28 μl (0.20 mmol) of triethylamine and 12.4 μl (0.16 mmol) of methyl chlorocarbonate were added at room temperature and stirred for 40 minutes. The reaction solution was concentrated under vacuum and the residue was purified by a silica gel chromatography (hexane/ethyl acetate=1/2) to obtain 55 mg (67%) of the above-identified compound as a colorless oily substance.

reactant | (S)-N-(2,6-dichlorophenyl)-1-(3-pyrrolidyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | ClC1=C(C(=CC=C1)Cl)NC(=O)C1=CN(C2=NC=CC=C2C1=O)[C@@H]1CNCC1 | C19H16Cl2N4O2
reactant | triethylamine | 0.20 mmol, 28 μl | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 0.16 mmol, 12.4 μl | C(OC)(=O)Cl | C2H3ClO2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-(2,6-dichlorophenyl)-1-(1-methoxycarbonylpyrrolidin-3-yl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | 55 mg, 67% | ClC1=C(C(=CC=C1)Cl)NC(=O)C1=CN(C2=NC=CC=C2C1=O)[C@@H]1CN(CC1)C(=O)OC | C21H18Cl2N4O4
